US07091228B2
N-(4-Bromo-2-fluorophenyl)-N-(6-fluoro-1,3-benzothiazol-2-yl)amine
In a similar manner to that described above for the preparation of N-(4-bromo-2-fluorophenyl)-4-methyl-1,3-benzothiazol-2-amine and N-(4-bromo-2-fluorophenyl)-N-(6-trifluoromethoxy-1,3-benzothiazol-2-yl)amine, using 2-chloro-6-fluoro-1,3-benzothiazole and 2-fluoro-4-bromoaniline, was prepared the desired product as a white solid (78% yield). 1H NMR (400 MHz, DMSO-d6) δ 10.50 (s, 1H), 8.60 (t, 1H), 7.80 (d, 1H), 7.60 (m, 2H), 7.40 (d, 1H), 7.20 (m, 1H).

reactant | N-(4-bromo-2-fluorophenyl)-4-methyl-1,3-benzothiazol-2-amine | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C(=CC=C2)C)F | C14H10BrFN2S
reactant | N-(4-bromo-2-fluorophenyl)-N-(6-trifluoromethoxy-1,3-benzothiazol-2-yl)amine | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F)F | C14H7BrF4N2OS
reactant | 2-chloro-6-fluoro-1,3-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)F | C7H3ClFNS
reactant | 2-fluoro-4-bromoaniline | FC1=C(N)C=CC(=C1)Br | C6H5BrFN
product | N-(4-Bromo-2-fluorophenyl)-N-(6-fluoro-1,3-benzothiazol-2-yl)amine | 78% yield | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)F | C13H7BrF2N2S
